US04291147
Japanese Pat. No. 026,341 concerns the reaction of epoxides with aqueous ammonia in acetone solution, to give 1,4-bis-(2-hydroxy-3-aminopropoxy)-benzene, of melting point 128°-132° C.

reactant | ammonia | N | H3N
reactant | acetone | CC(=O)C | C3H6O
product | 1,4-bis-(2-hydroxy-3-aminopropoxy)-benzene | OC(COC1=CC=C(C=C1)OCC(CN)O)CN | C12H20N2O4
